US08729263B2
Step 2: 3-(6-(Methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-7-(piperidin-1-ylmethyl)naphthalen-2-ol
A H2 purged mixture of 6-(3-(benzyloxy)-6-(piperidin-1-ylmethyl)naphthalen-2-yl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine (34 mg, 0.059 mmol) and 10% wt Pd/C (0.3 mg, 3 μmol) in MeOH (3 mL) and EtOAc (3 mL) was stirred under a H2 atmosphere at RT overnight. The reaction mixture was filtered through celite, rinsed with MeOH and concentrated. The crude material was purified via HPLC to give the desired product as a yellow solid (15 mg, 52.3% yield). LCMS Rt=0.45 min [Method Q], MS (M−1)=486.4. 1H NMR (METHANOL-d4) δ 8.16 (s, 1H), 8.12 (d, J=10.1 Hz, 1H), 7.69 (d, J=8.6 Hz, 1H), 7.46 (s, 1H), 7.15-7.22 (m, 2H), 7.14 (s, 1H), 4.98 (t, J=12.1 Hz, 1H), 3.49 (s, 2H), 2.89 (s, 3H), 2.37 (br. s., 4H), 1.34-1.60 (m, 10H), 1.29 (s, 6H), 1.13 (s, 6H).

reactant | 6-(3-(benzyloxy)-6-(piperidin-1-ylmethyl)naphthalen-2-yl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine | 0.059 mmol, 34 mg | C(C1=CC=CC=C1)OC=1C(=CC2=CC=C(C=C2C1)CN1CCCCC1)C1=CC=C(N=N1)N(C1CC(NC(C1)(C)C)(C)C)C | C37H47N5O
solvent | MeOH | 3 mL | CO | CH4O
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 3 μmol, 0.3 mg | [Pd] | Pd
product | 3-(6-(Methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-7-(piperidin-1-ylmethyl)naphthalen-2-ol | 15 mg, 52.3% yield | CN(C1=CC=C(N=N1)C=1C(=CC2=CC(=CC=C2C1)CN1CCCCC1)O)C1CC(NC(C1)(C)C)(C)C | C30H41N5O
